US09388173B2
Step 4: 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(1-phenyl-1H-benzo[d]imidazol-6-yl)phenoxy)propan-2-ol
A mixture of 6-bromo-1-phenyl-1H-benzo[d]imidazole (200 mg, 0.73 mmol), 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propan-2-ol (330 mg, 0.81 mmol), K2CO3 (303 mg, 2.19 mmol) and Pd(dppf)Cl2 (50 mg) in a solution of dioxane (8 mL) and H2O (2 mL) was stirred at 100° C. for 16 h. The catalyst was filtered, and the filtrate concentrated. The residue was purified by prep-HPLC to give the desired title compound (152 mg, 43.8%). 1HNMR(CH3OD, 400 MHz) δ: 8.42 (s, 1H), 8.37 (br, 1H), 8.22-8.20 (m, 1H), 7.70-7.52 (m, 7H), 7.49-7.18 (m, 7H), 6.96-6.93 (m, 1H), 4.53-4.38 (m, 3H), 4.02-3.96 (m, 2H), 3.61-3.55 (m, 2H), 3.48-3.36 (m, 2H), 3.25-3.13 (m, 2H). LCMS (m/z): 476.2 [M+H]+

reactant | 6-bromo-1-phenyl-1H-benzo[d]imidazole | 0.73 mmol, 200 mg | BrC=1C=CC2=C(N(C=N2)C2=CC=CC=C2)C1 | C13H9BrN2
reactant | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propan-2-ol | 0.81 mmol, 330 mg | C1N(CCC2=CC=CC=C12)CC(COC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)O | C24H32BNO4
reactant | K2CO3 | 2.19 mmol, 303 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 50 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 2 mL | O | H2O
product | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(1-phenyl-1H-benzo[d]imidazol-6-yl)phenoxy)propan-2-ol | 152 mg, 43.8% | C1N(CCC2=CC=CC=C12)CC(COC1=CC(=CC=C1)C=1C=CC2=C(N(C=N2)C2=CC=CC=C2)C1)O | C31H29N3O2
